US05004747
(2RS,4R,6S)-(E)-6-(2-(2-(4-chlorophenyl)-4-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl)ethen-1-yl)-2,4-dihydroxy-3,4,5,6-tetrahydro-2H-pyran;
(4R,6S)-(E)-6-(2-(2-(3,5-dimethylphenyl)-4-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl)ethen-1-yl)-4-hydroxy-3,4,5,6-tetrahydro-2H-pyran-2-one, m.p.181°-185° C. [α]D =+30.8° C. (CH2Cl2 at 22° C.) Found: C,75.1; H,6.84; N,3.18%. Required: C,75.2; H,6.77; N,3.25%. [NMR in CDCl3, 1.38-1.55 (1H,m), 1.48 (6H,d,J=8 Hz), 1.59-1.68 (1H,m), 2.17 (1H,d,J=4 Hz), 2.32 (6H,s), 2.53 (2H,m), 3.53 (1H,sept,J=8 Hz), 4.01 (1H,m), 5.09 (1H,m), 5.59 (1H,dd,J=16 Hz and J=5 Hz), 6.11 (1H,dd,J=16 Hz and J=1.5 Hz), 6.78 (2H,s), 7.00 (1H,s), 7.49 (1H,m), 7.68 (1H,m), 8.02 (1H,d,J=8 Hz), 8.49 (1H,m)];

reactant | (4R,6S)-(E)-6-(2-(2-(3,5-dimethylphenyl)-4-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl)ethen-1-yl)-4-hydroxy-3,4,5,6-tetrahydro-2H-pyran-2-one | CC=1C=C(C=C(C1)C)N1C(C2=CC=CC=C2C(=C1/C=C/[C@@H]1C[C@H](CC(O1)=O)O)C(C)C)=O | C27H29NO4
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2RS,4R,6S)-(E)-6-(2-(2-(4-chlorophenyl)-4-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl)ethen-1-yl)-2,4-dihydroxy-3,4,5,6-tetrahydro-2H-pyran | ClC1=CC=C(C=C1)N1C(C2=CC=CC=C2C(=C1/C=C/[C@@H]1C[C@H](CC(O1)O)O)C(C)C)=O | C25H26ClNO4
